US07026335B2
Preparation of 4-cyclohexyl-4-hydroxymethylpiperidine-1-carboxylic acid tert-butyl ester (3):
Di-tert-butyl dicarbonate (79 g, 362 mmol) is added to a stirred solution of (4-cyclohexyl-piperidin-4-yl)-methanol, 2, (53.6 g) and triethylamine (180 mL) in MeOH (1600 mL) at 0° C. The resulting solution is allowed to warm to room temperature and is stirred an additional 4 hours. The solution concentrated in vacuo and purified via chromatography eluting with EtOAc/hexane 3:2, to afford 35.8 g (48% yield) of the desired product as a white solid. 1H NMR (300 MHz, CDCl3) δ 1.00–1.32 (m, 5H), 1.35–1.60 (m, 14H), 1.65–1.88 (m, 5H), 3.15–3.30 (m, 2H), 3.48–3.65 (m, 2H), 3.63 (s, 2H); MS (ESI) m/z 298, (M+H+).

reactant | Di-tert-butyl dicarbonate | 362 mmol, 79 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (4-cyclohexyl-piperidin-4-yl)-methanol | C1(CCCCC1)C1(CCNCC1)CO | C12H23NO
reactant | triethylamine | 180 mL | C(C)N(CC)CC | C6H15N
solvent | MeOH | 1600 mL | CO | CH4O
product | 4-cyclohexyl-4-hydroxymethylpiperidine-1-carboxylic acid tert-butyl ester | 35.8 g, 48% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)(CO)C1CCCCC1 | C17H31NO3
